US07282512B2
[1-(4-Fluorobenzyl)cyclobutyl]methyl(1S)-5-{[(dimethylamino)sulfonyl]amino}-1-{oxo[(3-pyridinylmethyl)amino]acetyl}pentylcarbamate was prepared as in example 9j except that [1-(4-fluorobenzyl)cyclobutyl]methyl(1S)-5-{[(dimethylamino)sulfonyl]amino}-1-{1-hydroxy-2-oxo-2-[(3-pyridinylmethyl)amino]ethyl}pentylcarbamate was substituted for (1-benzylcyclohexyl)methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)-5-[(4-morpholinylcarbonyl)amino]pentylcarbamate. 1H NMR (300 MHz, 80° C., DMSO-d6) δ 9.07 (m, 1H), 8.52 (s, 1H), 8.47 (d, J=5 Hz, 1H), 7.68 (d, J=8 Hz, 1H), 7.33 (m, 1H), 7.21 (m, 2H), 7.08 (t, J=9 Hz, 2H), 6.82 (m, 1H), 4.85 (m, 1H), 4.40 (d, J=6 Hz, 2H), 3.81 (s, 2H), 3.10 under water peak (m, 2H), 2.92 (m, 2H), 2.70 (s, 6H), 1.70-1.95 (m, 6H), 1.37-1.65 (m, 6H). ES-LCMS m/z 592 (M+H).

reactant | [1-(4-fluorobenzyl)cyclobutyl]methyl(1S)-5-{[(dimethylamino)sulfonyl]amino}-1-{1-hydroxy-2-oxo-2-[(3-pyridinylmethyl)amino]ethyl}pentylcarbamate | CN(S(=O)(=O)NCCCC[C@@H](C(C(NCC=1C=NC=CC1)=O)O)NC(OCC1(CCC1)CC1=CC=C(C=C1)F)=O)C | C28H40FN5O6S
reactant | (1-benzylcyclohexyl)methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)-5-[(4-morpholinylcarbonyl)amino]pentylcarbamate | OC(C(N[C@H](C)C1=CC=CC=C1)=O)[C@H](CCCCNC(=O)N1CCOCC1)NC(OCC1(CCCCC1)CC1=CC=CC=C1)=O | C35H50N4O6
product | [1-(4-Fluorobenzyl)cyclobutyl]methyl(1S)-5-{[(dimethylamino)sulfonyl]amino}-1-{oxo[(3-pyridinylmethyl)amino]acetyl}pentylcarbamate | CN(S(=O)(=O)NCCCC[C@@H](C(C(NCC=1C=NC=CC1)=O)=O)NC(OCC1(CCC1)CC1=CC=C(C=C1)F)=O)C | C28H38FN5O6S
